### PR TITLE
feat(Algebra/MvPolynomial): add multivariate Hasse derivatives

### PR DESCRIPTION
**Pull request by eliasjudin**
## Summary

This PR depends on #37801.

Add `MvPolynomial.mvChoose` and `MvPolynomial.hasseDeriv`, prove the coefficient formula, naturality and degree lemmas, and identify the `Fin 1` specialization with `Polynomial.hasseDeriv` via `MvPolynomial.uniqueAlgEquiv R (Fin 1)`.
Add the corresponding homogeneous lemmas in `Mathlib.RingTheory.MvPolynomial.HasseDeriv`.

This PR adds proofs autoformalised by @Aristotle-Harmonic.

## Motivation

This provides the multivariate Hasse-derivative API corresponding to the existing univariate `Polynomial.hasseDeriv`, while keeping the `Unique`-indexed equivalence refactor in a separate precursor PR.

## Testing

- `lake build Mathlib.Algebra.MvPolynomial.MvChoose Mathlib.Algebra.MvPolynomial.HasseDeriv Mathlib.RingTheory.MvPolynomial.HasseDeriv`
- `lake exe lint-style Mathlib/Algebra/MvPolynomial/MvChoose.lean Mathlib/Algebra/MvPolynomial/HasseDeriv.lean Mathlib/RingTheory/MvPolynomial/HasseDeriv.lean`
- `lake exe lint-style Mathlib`
- `lake exe mk_all`

Co-authored-by: Aristotle (Harmonic) <aristotle-harmonic@harmonic.fun>

### CODE REVIEW

File: Mathlib/Algebra/MvPolynomial/Equiv.lean [hunk 1]
```diff
@@ -598,6 +598,58 @@ theorem finSuccEquiv_coeff_coeff (m : Fin n →₀ ℕ) (f : MvPolynomial (Fin (
       simpa only [monomial_eq, C_1, one_mul, Finsupp.prod_pow, tail_apply, if_neg hmj.symm] using
         coeff_monomial m j.tail (1 : R)
 
+variable (R)
+
+/-- The algebra isomorphism identifying multivariate polynomials in one variable with
+univariate polynomials. -/
+def finOneAlgEquiv : MvPolynomial (Fin 1) R ≃ₐ[R] Polynomial R :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/MvPolynomial/Equiv.lean]: I think better to generalize `MvPolynomial.pUnitAlgEquiv` to `Unique`?

File: Mathlib/Algebra/MvPolynomial/HasseDeriv.lean [hunk 2]
```diff
@@ -0,0 +1,845 @@
...
+open Finsupp
+open scoped BigOperators
+
+variable {σ τ R : Type*} [CommSemiring R]
+
+/-! ### Multivariate binomial coefficients -/
+
+/-- The multivariate binomial coefficient $\binom{k}{i}$. -/
+def mvChoose (k i : σ →₀ ℕ) : ℕ :=
+  if i ≤ k then k.prod (fun j n ↦ n.choose (i j)) else 0
```
Comment (eric-wieser) [inline Mathlib/Algebra/MvPolynomial/HasseDeriv.lean]: Isn't the if redundant here?

File: Mathlib/Algebra/MvPolynomial/Equiv.lean [hunk 3]
```diff
@@ -87,15 +88,35 @@ def pUnitAlgEquiv : MvPolynomial PUnit R ≃ₐ[R] R[X] where
...
+  rw [Finsupp.unique_single d, Finsupp.prod_single_index]
+  · simp [Polynomial.C_mul_X_pow_eq_monomial]
+  · simp [pow_zero]
+
 theorem pUnitAlgEquiv_monomial {d : PUnit →₀ ℕ} {r : R} :
     MvPolynomial.pUnitAlgEquiv R (MvPolynomial.monomial d r)
-      = Polynomial.monomial (d ()) r := by
-  simp [Polynomial.C_mul_X_pow_eq_monomial]
+      = Polynomial.monomial (d default) r := by
+  simpa [pUnitAlgEquiv] using (uniqueAlgEquiv_monomial (R := R) (σ := PUnit) : _)
```
Comment (eric-wieser) [inline Mathlib/Algebra/MvPolynomial/Equiv.lean]:
```suggestion
      = Polynomial.monomial (d default) r :=
  uniqueAlgEquiv_monomial
```

File: Mathlib/Algebra/MvPolynomial/Equiv.lean [hunk 4]
```diff
@@ -87,15 +88,35 @@ def pUnitAlgEquiv : MvPolynomial PUnit R ≃ₐ[R] R[X] where
   map_add' _ _ := eval₂_add _ _
   commutes' _ := eval₂_C _ _ _
 
+/-- `pUnitAlgEquiv` is definitionally `uniqueAlgEquiv R PUnit`.
+
+Simp lemmas for the underlying isomorphism are generated by `@[simps]` on `uniqueAlgEquiv` and
+are named `uniqueAlgEquiv_apply`, `uniqueAlgEquiv_symm_apply`, etc.; unfolding `pUnitAlgEquiv`
+specializes them to `PUnit`. -/
+abbrev pUnitAlgEquiv := uniqueAlgEquiv (R := R) PUnit
```
Comment (eric-wieser) [inline Mathlib/Algebra/MvPolynomial/Equiv.lean]: I'd recommend making this `deprecated`.

I think the changes to this file would make sense to be made first in a separate PR.

File: Mathlib/Algebra/MvPolynomial/Equiv.lean (hunk 1 above)
Comment (eliasjudin) [reply Mathlib/Algebra/MvPolynomial/Equiv.lean]: Addressed in the latest revision: this is now generalized as `MvPolynomial.uniqueAlgEquiv (σ : Type*) [Unique σ]`, and `pUnitAlgEquiv` is kept only as a deprecated compatibility abbreviation.

File: Mathlib/Algebra/MvPolynomial/Equiv.lean (hunk 3 above)
Comment (eliasjudin) [reply Mathlib/Algebra/MvPolynomial/Equiv.lean]: Applied: the `pUnit` specialization now reduces directly to `uniqueAlgEquiv_monomial` (via `simpa`), so this simplification is incorporated.

File: Mathlib/Algebra/MvPolynomial/Equiv.lean (hunk 4 above)
Comment (eliasjudin) [reply Mathlib/Algebra/MvPolynomial/Equiv.lean]: Done: `pUnitAlgEquiv` is now a deprecated compatibility abbreviation pointing to `uniqueAlgEquiv (R := R) PUnit`, with a migration message.

File: Mathlib/Algebra/MvPolynomial/HasseDeriv.lean (hunk 2 above)
Comment (eliasjudin) [reply Mathlib/Algebra/MvPolynomial/HasseDeriv.lean]: Addressed in the rewrite: `mvChoose` was moved to `Mathlib/Algebra/MvPolynomial/MvChoose.lean` and is now defined directly as the coordinatewise product (no top-level `if`). The non-`≤` case is handled by `mvChoose_of_not_le`, so the redundant conditional is eliminated.

File: Mathlib/Algebra/MvPolynomial/Equiv.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Algebra/MvPolynomial/Equiv.lean]: It doesn't appear you did this in a separate PR as I suggested.

File: Mathlib/Algebra/MvPolynomial/Equiv.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Algebra/MvPolynomial/Equiv.lean]: You also no longer need this `def` then, which was my original point.

Comment (eliasjudin) [reply Mathlib/Algebra/MvPolynomial/Equiv.lean]: Addressed by the split. The `Equiv` refactor now lives in #37801, and this Hasse PR no longer carries a separate `finOneAlgEquiv` API: the `Fin 1` bridge here goes directly through `MvPolynomial.uniqueAlgEquiv R (Fin 1)`.

File: Mathlib/Algebra/MvPolynomial/Equiv.lean (hunk 4 above)
Comment (eliasjudin) [reply Mathlib/Algebra/MvPolynomial/Equiv.lean]: Done via the split. The `Unique`-indexed equivalence refactor and deprecation work are now in #37801, while #37660 is restacked to contain only `MvChoose`, `HasseDeriv`, the homogeneous lemmas, and the required `Mathlib.lean` import changes.

**Comment by euprunin** [comment]
@eliasjudin 

Are you familiar with the merely-true project (https://github.com/merely-true/merely-true)? It's intended as a proper home for LLM-generated mathematics, with very permissive contribution guidelines.

**Comment by eliasjudin** [comment]
> @eliasjudin
> 
> Are you familiar with the merely-true project (https://github.com/merely-true/merely-true)? It's intended as a proper home for LLM-generated mathematics, with very permissive contribution guidelines.

@euprunin 

dude if you don't want it you can close the pr... I don't have a need to contribute to mathlib. It was suggested to contribute this.

**Comment by eliasjudin** [comment]
@eric-wieser The code can be golfed quite a lot, I did not intend to offload this to you. It has never been my intention to consume expert review time, I realize this is scarce.

**Comment by eliasjudin** [comment]
let me know how you want me to proceed

**Comment by eliasjudin** [comment]
Depends on: #37801

**Comment by euprunin** [comment]
> > Are you familiar with the merely-true project (https://github.com/merely-true/merely-true)? It's intended as a proper home for LLM-generated mathematics, with very permissive contribution guidelines.
> 
> dude if you don't want it you can close the pr... I don't have a need to contribute to mathlib. It was suggested to contribute this.

I’m not a Mathlib reviewer or maintainer, so I don't speak for the project. I just meant to mention `merely-true` as an interesting place focused on LLM generated mathematics where this code might be a good fit regardless of whether it's suitable for Mathlib. And just to be clear, I wasn't suggesting that this PR should be closed. Sorry if that came across the wrong way.
